US05374772
A mixture of 0.60 (1.2 mmol) of 3-hydroxy-5-(octadecyloxy) benzoic acid phenylmethyl ester, 0.46 g (1.27 mmol) of 6-[(4-phenylmethoxy)phenoxy]hexyl bromide and 0.3 g (2.17 mmol) of potassium carbonate in 20 ml of acetone and 1 ml of DMF was stirred at reflux for 21 hours. The usual workup followed by chromatography on 40 g of silica gel (230-400 mesh) using 5% ethyl acetate-hexane gave 0.7 g (74% yield, mp 60°-62°) of 3-(octadecyloxy)-5-[[6-[4-(phenylmethoxy)phenoxy]hexyl]oxy]benzoic acid phenylmethyl ester.

reactant | 3-hydroxy-5-(octadecyloxy) benzoic acid phenylmethyl ester | C1(=CC=CC=C1)COC(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)O)=O | C32H48O4
reactant | potassium carbonate | 2.17 mmol, 0.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 3-(octadecyloxy)-5-[[6-[4-(phenylmethoxy)phenoxy]hexyl]oxy]benzoic acid phenylmethyl ester | 0.7 g, 74% yield | C1(=CC=CC=C1)COC(C1=CC(=CC(=C1)OCCCCCCOC1=CC=C(C=C1)OCC1=CC=CC=C1)OCCCCCCCCCCCCCCCCCC)=O | C51H70O6
